US06423713B1
4-(4-(4-pyridyl)-3-(4-fluorophenyl)pyrazolyl)butyramide
A solution of methyl 4-(4-(4-pyridyl)-3-(4-fluorophenyl)pyrazolyl)butyrate (39 g, 120 mmol) in 600 mL of MeOH was saturated with NH3. The solution was periodically treated with additional NH3 over a 24 h period. The solution was degassed with a stream of nitrogen and the solution was concentrated to leave a yellow solid. The solid was slurried in ether and filtered to leave the title compound: MS (M+H): 325 (base peak).

reactant | methyl 4-(4-(4-pyridyl)-3-(4-fluorophenyl)pyrazolyl)butyrate | 120 mmol, 39 g | N1=CC=C(C=C1)C=1C(=NNC1CCCC(=O)OC)C1=CC=C(C=C1)F | C19H18FN3O2
reactant | NH3 | N | H3N
solvent | MeOH | 600 mL | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 4-(4-(4-pyridyl)-3-(4-fluorophenyl)pyrazolyl)butyramide | N1=CC=C(C=C1)C=1C(=NNC1CCCC(=O)N)C1=CC=C(C=C1)F | C18H17FN4O
